US06730791B2
Step G: Preparation of [4-(4-chloro-1-oxobutyl)phenyl]methyl-propanedioic acid, diethyl ester
Bubble hydrogen chloride gas through a solution of [4-(cyclopropylcarbonyl)phenyl]methyl-propanedioic acid, diethyl ester (570 mg, 2.0 mmol) in ethanol (4 mL) for 5 minutes. Heat the solution to reflux. After 18 hours, cool the solution to room temperature and bubble nitrogen through the solution for 1 hour. Add ethyl acetate and water to the residue. Dry the organic phase over anhydrous magnesium sulfate and concentrate. Dissolve the crude product in ethanol (50 mL) and bubble hydrogen chloride gas through the solution for 10 minutes. Heat the solution to reflux. After stirring 2 days, concentrate the solution. Add water and ethyl acetate to the residue. Dry the organic phase over anhydrous magnesium sulfate and concentrate. Purify by flash chromatography (150 g silica gel, 20% ethyl acetate/heptane as eluent) to give the title compound (409 mg, 59%).

reactant | hydrogen chloride | Cl | ClH
reactant | [4-(cyclopropylcarbonyl)phenyl]methyl-propanedioic acid, diethyl ester | 2.0 mmol, 570 mg | C1(CC1)C(=O)C1=CC=C(C=C1)CC(C(=O)OCC)C(=O)OCC | C18H22O5
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | [4-(4-chloro-1-oxobutyl)phenyl]methyl-propanedioic acid, diethyl ester | 409 mg, 59% | ClCCCC(=O)C1=CC=C(C=C1)CC(C(=O)OCC)C(=O)OCC | C18H23ClO5
